US08563715B2
The synthesis method shall be explained concretely, and in order, below. 4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine (300 mg, 0.73 mmol) was dissolved in chloroform solution (5 ml), benzoyl peroxide (0.3 mg, 0.0014 mmol) and N-chlorosuccinimide (117 mg, 0.87 mmol) was added, and refluxed under heating for 1 hour. Water was added, and extraction was done with dichloromethane. After washing the organic layer with saturated saline, drying was done with MgSO4, and the solvent was distilled away under reduced pressure. Purification was done by silica gel chromatography (hexane:ethyl acetate=4:1), and 142 mg of 5-chloro-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine was obtained (yield 46%). The melting point measurement result, the MS measurement result, and the NMR data for the obtained Compound 130 are shown below.

reactant | 4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | 0.73 mmol, 300 mg | O1CCN(CC1)C1=NC(=NC(=C1)N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1 | C22H30N6O2
reactant | N-chlorosuccinimide | 0.87 mmol, 117 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | benzoyl peroxide | 0.0014 mmol, 0.3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 5-chloro-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | 142 mg, yield 46% | ClC=1C(=NC(=NC1N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1)N1CCOCC1 | C22H29ClN6O2
